US05922697
Step 4: (3-Carbamoyl-4-cyclohexylmethoxy-benzyl)-carbamic acid tert-butyl ester
To a solution of (3-Carbamoyl-4-hydroxy-benzyl)-carbamic acid tert-butyl ester (2.0 g, 7.5 mmol) in 15 mL methanol at room temperature was added cesium carbonate (2.7 g, 8.3 mmol). The reaction was stirred overnight. The reaction was then concentrated under reduced pressure. N,N-dimethylformamide (50 mL) was then added, and the reaction was then reconcentrated under reduced pressure to remove any remaining methanol. The residue was then suspended in N,N-dimethylformamide (15 mL) and cyclohexylmethyl bromide (1.1 mL, 8.3 mmol) was then added, and the reaction was heated at 65° C. for 4 hours. The reaction was then concentrated under reduced pressure. The residue was diluted with ethyl acetate and 5% citric acid. The organic layer was washed with 5% citric acid (2×50 mL), 1N sodium hydroxide (2×50 mL), 5% citric acid (2×50 mL), and saturated sodium chloride (1×50 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to yield a pale yellow powder. The powder was collected and washed with ether, followed by drying under reduced pressure to yield (1.5 g, 57%). 1H NMR (400 MHz, DMSO): δ 7.68 (bs, 1H), 7.52 (d, 2H), 7.36 (t, 1H), 7.27 (d, 2H), 7.05 (d, 1H), 4.04 (d, 2H), 3.88 (d, 2H), 1.76-1.61 (m, 6H), 1.36 (s, 9H), 1.28-1.02 (m, 5H); Mass Spectrum (Chemical Ionization, 1% NH3 in CH4) m/z 363 (M+H).

reactant | (3-Carbamoyl-4-hydroxy-benzyl)-carbamic acid tert-butyl ester | 7.5 mmol, 2.0 g | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)O)C(N)=O)=O | C13H18N2O4
reactant | cesium carbonate | 8.3 mmol, 2.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cyclohexylmethyl bromide | 8.3 mmol, 1.1 mL | C1(CCCCC1)CBr | C7H13Br
reactant | NH3 | N | H3N
solvent | methanol | 15 mL | CO | CH4O
solvent | CH4 | C | CH4
product | (3-Carbamoyl-4-cyclohexylmethoxy-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)OCC1CCCCC1)C(N)=O)=O | C20H30N2O4
